US06083658
2-(p-hydroxyphenyl)ethyl methacrylate was synthesized by carrying out a dehydration reaction between 2-(p-hydroxyphenyl) ethanol and methacrylic acid in the presence of an acidic catalyst. The 2-(p-hydroxyphenyl)ethyl methacrylate thus obtained was dissolved in 2 -methyoxyethanol and subjected to a radical polymerization by use of an azo-based initiator V-601 (manufactured by Wako Pure Chemical Industries, Ltd.). The reaction product was mixed with water and the resulting polymer was precipitated. In this way, a binder polymer [BP-2] was obtained. The weight average molecular weight of the polymer was 56,000 (using polyhydroxystyrene as a standard substance).

reactant | 2-(p-hydroxyphenyl) ethanol | OC1=CC=C(C=C1)CCO | C8H10O2
reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
product | 2-(p-hydroxyphenyl)ethyl methacrylate | C(C(=C)C)(=O)OCCC1=CC=C(C=C1)O | C12H14O3
